US07816371B2
d. (R)-2-(5-((S)-2-(4-Chlorophenyl)propanamido)-1-oxoisoquinolin-2(1H)-yl)-3-methylbutanoic acid
(R)-methyl 2-(5-((S)-2-(4-chlorophenyl)propanamido)-1-oxoisoquinolin-2(1H)-yl)-3-methylbutanoate (0.43 g, 0.00088 mol) was stirred with lithium hydroxide (0.05 g, 0.002 mol) in tert-butyl alcohol (6 mL, 0.06 mol) and water (3 mL, 0.2 mol) at 0° C. for 1 hour. 1 N HCl was added until pH<7 and then reaction mixture was extracted with CH2Cl2 (40 mL×3). The organic layers were dried over MgSO4, filtered, purified via flash chromatography (12 g of silica gel, 0-50% EtOAc/Hexane) and gave a light yellow solid. 1H NMR δ (CDCl3) δ: 8.17 (br, 1H), 7.86 (br, 1H), 7.52-7.29 (m, 6H), 7.03 (br, 1H), 6.09-6.05 (m, 1H), 5.00-4.87 (m, 1H), 3.87-3.82 (m, 1H), 2.70-2.60 (m, 1H), 1.64 (d, J=7.0 Hz, 3H), 1.14 (d, J=6.5 Hz, 3H), 0.78 (d, J=6.4 Hz, 3H). MS m/z 427.1 (M+H)+.

reactant | (R)-methyl 2-(5-((S)-2-(4-chlorophenyl)propanamido)-1-oxoisoquinolin-2(1H)-yl)-3-methylbutanoate | 0.00088 mol, 0.43 g | ClC1=CC=C(C=C1)[C@@H](C(=O)NC1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)OC)C(C)C)C | C24H25ClN2O4
reactant | lithium hydroxide | 0.002 mol, 0.05 g | [OH-].[Li+]
reactant | tert-butyl alcohol | 0.06 mol, 6 mL | C(C)(C)(C)O | C4H10O
reactant | water | 0.2 mol, 3 mL | O | H2O
reactant | HCl | 1 N | Cl | ClH
product | (R)-2-(5-((S)-2-(4-Chlorophenyl)propanamido)-1-oxoisoquinolin-2(1H)-yl)-3-methylbutanoic acid | ClC1=CC=C(C=C1)[C@@H](C(=O)NC1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)O)C(C)C)C | C23H23ClN2O4
